US08614215B2
Intermediate 51: 4-Methoxy-1-(2-methoxyethyl)-2-nitrobenzene
To a solution of 2-(4-methoxy-2-nitrophenyl)ethanol (1 g; 5.07 mmol; 1 eq) in THF (50 mL) is added sodium hydride (406 mg; 10.14 mmol; 2 eq) at 0° C. and the reaction mixture is stirred at 0° C. for 10 min before adding iodomethane (0.63 mL; 10.14 mmol; 2 eq). The reaction mixture is stirred overnight. It is quenched by addition of water. The product is extracted with EtOAc and the organic phase is dried over MgSO4. The solvent is evaporated under reduced pressure and the residue is purified by flash chromatography using a mixture of petrol ether and EtOAc (70/30) as eluent. The solvents are evaporated to afford 680 mg (63%) of the title compound as a yellow solid. 1H NMR (DMSO-d6) δ 7.35 (d, J=3.0 Hz, 1H), 7.21 (d, J=9.0 Hz, 1H), 6.98 (dd, J=9.0, 3.0 Hz, 1H), 3.76 (s, 3H), 3.54 (t, J=9.0 Hz, 2H), 3.24 (s, 314), 3.01 (t, J=9.0 Hz, 2H), HPLC (max plot) 94%; Rt 4.18 min.

reactant | 2-(4-methoxy-2-nitrophenyl)ethanol | 5.07 mmol, 1 g, 1 eq | COC1=CC(=C(C=C1)CCO)[N+](=O)[O-] | C9H11NO4
reactant | sodium hydride | 10.14 mmol, 406 mg, 2 eq | [H-].[Na+]
reactant | iodomethane | 10.14 mmol, 0.63 mL, 2 eq | IC | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-1-(2-methoxyethyl)-2-nitrobenzene | 680 mg, 63% | COC1=CC(=C(C=C1)CCOC)[N+](=O)[O-] | C10H13NO4
